US07563928B2
1.26 Preparation of 2-methanesulfinylmethyl-3-methoxy-benzoic acid N′-tert-butyl-N′-(3,5-dimethyl-benzoyl)-hydrazide (RG-115172)
3-Methoxy-2-methylsulfanylmethyl-benzoic acid N′-tert-butyl-N′-(3,5-dimethyl-benzoyl)-hydrazide in CH2Cl2 was stirred at room temperature with 1.0 eq of m-chloroperbenzoic acid. The reaction was complete within 5 min as indicated by TLC. The reaction mixture was washed with saturated NaHCO3 and the organic layer was stripped under vacuum. The residue was mixed with 1-2 mL of 1:1 ether:hexane and the solution was removed with a pipette, leaving the product which was then dried under vacuum.

reactant | 3-Methoxy-2-methylsulfanylmethyl-benzoic acid N′-tert-butyl-N′-(3,5-dimethyl-benzoyl)-hydrazide | C(C)(C)(C)N(NC(C1=C(C(=CC=C1)OC)CSC)=O)C(C1=CC(=CC(=C1)C)C)=O | C23H30N2O3S
reactant | m-chloroperbenzoic acid | 1.0 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-methanesulfinylmethyl-3-methoxy-benzoic acid N′-tert-butyl-N′-(3,5-dimethyl-benzoyl)-hydrazide | C(C)(C)(C)N(NC(C1=C(C(=CC=C1)OC)CS(=O)C)=O)C(C1=CC(=CC(=C1)C)C)=O | C23H30N2O4S
